US05708007
A mixutre of 4-(7-methoxy-2-benzofuranyl)pyridine (5.0 g) and 48% HBr (50 ml) was stirred at 120° C. for 1 hour. The mixture was cooled to room temperature, neutralized with 10% NaOH and 5% Na2CO3 and extracted with ethyl acetate. The organic extract was washed with brine and concentrated to give 4-(7-hydroxy-2-benzofuranyl)pyridine.

reactant | 4-(7-methoxy-2-benzofuranyl)pyridine | 5.0 g | COC1=CC=CC=2C=C(OC21)C2=CC=NC=C2 | C14H11NO2
reactant | NaOH | [OH-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HBr | 50 ml | Br | BrH
product | 4-(7-hydroxy-2-benzofuranyl)pyridine | OC1=CC=CC=2C=C(OC21)C2=CC=NC=C2 | C13H9NO2
